US07579091B2
Into a flask, 9-phenyl-9-(4-methylphenyl)-2,7-dibromofluorene (0.90 g, 1.84 mmol), NBS (0.33 g, 1.84 mmol), BPO (0.044 g, 0.184 mmol) and CCl4 (10 ml) were added and reacted under reflux for 2 hr. Then, the reaction system was cooled and filtered. After removing the filtrate, a gray solid of 9-phenyl-9-(4-bromomethylphenyl)-2,7-dibromofluorene (0.94 g) was obtained as a pure intermediate product (yield, 90%). 1HNMR (300 MHz, CDCl3): δ 7.51-7.48 (m, 6H), 7.26-7.00 (M, 9H), 4.46 (s, 2H).

reactant | 9-phenyl-9-(4-methylphenyl)-2,7-dibromofluorene | 1.84 mmol, 0.90 g | C1(=CC=CC=C1)C1(C2=CC(=CC=C2C=2C=CC(=CC12)Br)Br)C1=CC=C(C=C1)C | C26H18Br2
reactant | NBS | 1.84 mmol, 0.33 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 9-phenyl-9-(4-bromomethylphenyl)-2,7-dibromofluorene | 0.94 g | C1(=CC=CC=C1)C1(C2=CC(=CC=C2C=2C=CC(=CC12)Br)Br)C1=CC=C(C=C1)CBr | C26H17Br3
